US06160177
Synthesis of Octaaniline
Ferric chloride hexahydrate 5.4 g (0.02 mole) was dissolved in 20 ml 0.1 M HCl at room temperature. The tetraaniline in the leucoemeraldine oxidation state from Example 3 above 3.66 g (0.01 mole) was suspended in 250 ml 0.1 M HCl solution with magnetic stirring for 0.5 hours at room temperature. The ferric chloride solution was added very quickly (within 1~2 seconds) to the tetraaniline suspension with strong stirring. The suspension was then stirred magnetically for 2 hours. The reaction mixture was filtered, washed and neutralized following the general procedure described herein.

reactant | tetraaniline | C1=CC=C(C=C1)NC2=CC=C(C=C2)NC3=CC=C(C=C3)NC4=CC=C(C=C4)N | C24H22N4
reactant | leucoemeraldine | C1=CC(=CC=C1N)NC2=CC=C(C=C2)NC3=CC=C(C=C3)N | C18H18N4
solvent | HCl | 0.1 M, 20 ml | Cl | ClH
solvent | HCl | 0.1 M, 250 ml | Cl | ClH
product | Octaaniline | C1=CC(=CC=C1N)NC2=CC=C(C=C2)NC3=CC=C(C=C3)NC4=CC=C(C=C4)NC5=CC=C(C=C5)NC6=CC=C(C=C6)NC7=CC=C(C=C7)NC8=CC=C(C=C8)N | C48H43N9
